.TITLE Loading of capacity
*************************
*
V1 1 0 PULSE (0 5 1ms 1ns 1ns 5ms 10ms)
*
R1 1 2 7.3Meg
C1 2 0 20pF  
*
.TRAN 10us 10ms
*
.control
run
plot u(2)
.ENDC
*
.end
