.TITLE Loading of capacity
*************************
*
V1 1 0 PULSE (0 5 10us 1ns 1ns 1ms)
*
R1 1 2 1.0Meg
C1 2 0 10pF  
*
.TRAN 10us 500us
*
.control
run
plot u(2)
.ENDC
*
.end
