.TITLE Loading of capacity
*************************
*
V1 1 0 PULSE (0 5 10us 0 0 1ms)
*
R1 1 2 7300000
C1 2 0 15pF  
*
.TRAN 10us 500us
*
.control
run
plot u(2)/5*1024
print u(2)/5*1024
.ENDC
*
.end
